US07192982B2
(2S)-3-{4-[3-(4-Benzoyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid
The title compound was prepared from (S)-3-{4-[3-(4-Benzoyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid methyl ester by the standard hydrolysis procedure C (LiOH). MS(ES) for C27H28O6 [M−H]−: 447.1

reactant | (S)-3-{4-[3-(4-Benzoyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)OCC)=O | C28H30O6
reactant | LiOH | [Li+].[OH-]
product | (2S)-3-{4-[3-(4-Benzoyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCCOC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)C=C1 | C27H28O6
